US06562828B1
7-[1-(Pyridin-4-yl)piperidin-4-ylmethoxy]-1,2,3,4-tetrahydroisoquinoline-2-carboxylic Acid tert-Butyl Ester
To a mixture of 7-hydroxy-1,2,3,4-tetrahydroisoquinoline-2-carboxylic acid tert-butyl ester (389 mg) and 4-hydroxymethyl-1-(pyridin-4-yl)piperidine (300 mg) in tetrahydrofuran (15 ml) and methylene chloride (5 ml) were added triphenylphosphine (450 mg) and diisopropyl azodicarboxylate (0.34 ml) and the mixture was stirred at room temperature for 24 hours. After completion of the reaction, the reaction mixture was concentrated under reduced pressure and the obtained residue was purified by silica gel column chromatography (hexane:acetone=3:2-1:1, 1% triethylamine) and dried under reduced pressure to give the title compound (500 mg).

reactant | 7-hydroxy-1,2,3,4-tetrahydroisoquinoline-2-carboxylic acid tert-butyl ester | 389 mg | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2CC1)O | C14H19NO3
reactant | 4-hydroxymethyl-1-(pyridin-4-yl)piperidine | 300 mg | OCC1CCN(CC1)C1=CC=NC=C1 | C11H16N2O
reactant | triphenylphosphine | 450 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.34 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 7-[1-(Pyridin-4-yl)piperidin-4-ylmethoxy]-1,2,3,4-tetrahydroisoquinoline-2-carboxylic Acid tert-Butyl Ester | 500 mg | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2CC1)OCC1CCN(CC1)C1=CC=NC=C1 | C25H33N3O3
